US04788010
(A) 3,3-Dicyclohexylpropionic acid
A solution of 15 g (0.066 mol) of 3,3-diphenylpropionic acid in 200 ml of acetic acid was treated with 2.25 g of platinum oxide and shaken on the Parr hydrogenator for 24 hours at a starting pressure of 60 lbs. Whenever the pressure dropped to approximately 45 lbs., the system was repressurized to 60 lbs. After heating on the steam bath to redissolve solid which had separated, the solution was decanted from the catalyst which had settled, filtered under argon, and the catalyst washed with additional acetic acid by decantation. The acetic acid was removed on a rotary evaporator to give a colorless solid (remaining acetic acid azeotroped with toluene). The solid was taken up in 250 ml of chloroform, filtered to clarify, and the chloroform evaporated. The product was suspended in ether and the evaporation repeated. After drying at reduced pressure for 2 hours, the solid weighed 15.25 g, melting point 118°-120° C. (s, 114° C.).

reactant | 3,3-diphenylpropionic acid | 0.066 mol, 15 g | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 2.25 g | [Pt]=O
product | 3,3-Dicyclohexylpropionic acid | C1(CCCCC1)C(CC(=O)O)C1CCCCC1 | C15H26O2
